* Z:\mnt\design.r\spice\examples\3964.asc
V1 IN 0 35
C1 N007 0 2.2µ
L1 N005 OUT 10µ
C2 N003 N005 0.22µ
R1 OUT N008 1Meg
R2 0 N008 43.2K
C3 0 OUT 2.2µ
V2 N004 0 PULSE(3.3 0 .45m 10n 10n 100u 200u)
R3 IN N001 100K
R4 N001 0 3.92K
R5 0 N002 27.4K
R6 OUT N009 100m
M§Q1 N011 N010 N009 N009 IRF7343P
D1 N011 0 LXHL-BW02
XU1 N005 N003 N007 IN N001 MP_01 MP_02 N007 OUT N009 MP_03 N008 MP_04 MP_05 N006 N002 0 MP_06 N004 N010 MP_07 0 LT3964
R7 N006 N007 100K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* 2MHz
.lib LT3964.sub
.backanno
.end
